US08003843B2
A 100 ml-four-necked flask equipped with a thermometer, a reflux condenser, and a stirrer was charged with 8.61 g (102) mmol 2-methyl-3-butin-2-ol (MBI) and 15.58 g (102) mmol 3,7-dimethyl-6-octen-1-in-3-ol (DLL) stirred with 750 rpm and heated up to reflux temperature. After 5 min an internal temperature of 93° C. was reached, and 2 ml KOH (41.42% in H2O, 20.53 mmol) were added. The reaction was controlled by GC (samples were taken after 60 min, 155 min and 385 min). The ketones were separated by distillation. Yield acetone 5.7 g, (95.8%), yield 6-methyl-5-hepten-2-on (MH) 12.3 g, (95.2%), not optimized.

reactant | 2-methyl-3-butin-2-ol | 8.61 g | CC(C)(C#C)O | C5H8O
reactant | 3,7-dimethyl-6-octen-1-in-3-ol | 15.58 g | CC(C#C)(CCC=C(C)C)O | C10H16O
reactant | KOH | 20.53 mmol, 2 ml | [OH-].[K+]
product | 6-methyl-5-hepten-2-on | 12.3 g, 95.2% | CC(=CCCC(C)=O)C | C8H14O
